US06528543B1
3-Cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionic acid methyl ester (750 mg, 2.36 mmol) and methyl urea (437 mg, 5.90 mmol) were treated with a solution of magnesium methoxide in methanol (7.4 wt %, 14.5 mL, 7.08 mmol). The reaction mixture was then concentrated in vacuo to approximately one-half the volume of methanol. The resulting reaction mixture was then heated under reflux for 15 h. The reaction mixture was allowed to cool to 25° C. and then partitioned between water (75 mL) and ethyl acetate (75 mL). An emulsion formed, and a saturated aqueous sodium chloride solution was added to break down the emulsion. The aqueous layer was further extracted with ethyl acetate (2×75 mL). The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo to afford a white semi-solid. The semi-solid was treated with a solution of 2/1 hexanes/ethyl acetate, and a white solid formed. The solid was filtered, washed well with hexanes, and dried to afford 1-[3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionyl]-3-methyl-urea (322 mg, 38%) as a white solid: mp 187-189° C.; FAB-HRMS m/e calcd for C17H20F4N2O2 (M+H)+361.1539, found 361.1549.

reactant | 3-Cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionic acid methyl ester | 2.36 mmol, 750 mg | COC(C(CC1CCCC1)C1=CC(=C(C=C1)C(F)(F)F)F)=O | C16H18F4O2
reactant | methyl urea | 5.90 mmol, 437 mg | CNC(=O)N | C2H6N2O
reactant | magnesium methoxide | C[O-].[Mg+2].C[O-]
reactant | methanol | 7.08 mmol, 14.5 mL | CO | CH4O
reactant | sodium chloride | [Cl-].[Na+]
product | 1-[3-cyclopentyl-2-(3-fluoro-4-trifluoromethyl-phenyl)-propionyl]-3-methyl-urea | 322 mg, 38% | C1(CCCC1)CC(C(=O)NC(=O)NC)C1=CC(=C(C=C1)C(F)(F)F)F | C17H20F4N2O2
